US07728018B2
3-(4-Chloro-phenyl)-4,5-dihydro-1H-pyrazole
Under N2 atmosphere, 1-(4-chloro-phenyl)-3-dimethylamino-propan-1-one hydrochloride (37.2 g) was dissolved in warm MeOH (75 mL), and slowly added to a solution of hydrazine hydrate (23 mL) and 50% aqueous NaOH (12 mL) in MeOH (30 mL) stirred at 50° C. The mixture was refluxed for 2 hours, and evaporated under reduced pressure. Water was added to the residue, followed by extraction with DCM. The organic phase was washed twice with water, dried and evaporated under reduced pressure, to give 25.0 g of a yellow solid, m.p. 90-100° C.

reactant | 1-(4-chloro-phenyl)-3-dimethylamino-propan-1-one hydrochloride | 37.2 g | Cl.ClC1=CC=C(C=C1)C(CCN(C)C)=O
reactant | hydrazine hydrate | 23 mL | O.NN
reactant | NaOH | 12 mL | [OH-].[Na+]
solvent | MeOH | 75 mL | CO | CH4O
solvent | MeOH | 30 mL | CO | CH4O
product | 3-(4-Chloro-phenyl)-4,5-dihydro-1H-pyrazole | 25.0 g | ClC1=CC=C(C=C1)C1=NNCC1 | C9H9ClN2
